US04797419
Preparation of N,N-diphenyl-N'-(3,4-dichlorophenyl)urea
3,4-Dichloroaniline (5.35 g, 0.033 mol) was dissolved in 100 ml of chloroform and 7.65 g (0.033 mol) of diphenylcarbamic chloride and 3.33 g (0.033 mol) of triethylamine were added.

reactant | 3,4-Dichloroaniline | 0.033 mol, 5.35 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | diphenylcarbamic chloride | 0.033 mol, 7.65 g | C1(=CC=CC=C1)N(C(=O)Cl)C1=CC=CC=C1 | C13H10ClNO
reactant | triethylamine | 0.033 mol, 3.33 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-diphenyl-N'-(3,4-dichlorophenyl)urea | C1(=CC=CC=C1)N(C(=O)NC1=CC(=C(C=C1)Cl)Cl)C1=CC=CC=C1 | C19H14Cl2N2O
